US08975282B2
Step 2) potassium 5-chloro-2-fluoro-4-nitrophenolate
A mixture of 1-chloro-4,5-difluoro-2-nitrobenzene (5.12 g, 26.5 mmol) and 15% aqueous KOH (19.9 g) solution was stirred at reflux for 3 hours, then cooled to rt, and filtered to give the title compound as a yellow crystalloid (5.67 g, 93.3%).

reactant | 1-chloro-4,5-difluoro-2-nitrobenzene | 26.5 mmol, 5.12 g | ClC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2ClF2NO2
reactant | KOH | 19.9 g | [OH-].[K+]
product | potassium 5-chloro-2-fluoro-4-nitrophenolate | ClC=1C(=CC(=C(C1)[O-])F)[N+](=O)[O-].[K+] | InChI=1S/C6H3ClFNO3.K/c7-3-1-6(10)4(8)2-5(3)9(11)12;/h1-2,10H;/q;+1/p-1
